US08034827B2
a) 2-[2-(4-Pyridin-4-yl-piperazin-1-yl)-ethyl]-isoindole-1,3-dione
A mixture of 1-pyridin-4-yl-piperazine [Org. Lett. 4 (2002) 737-740] (1.0 g, 6.12 mmol), N-(2-bromoethyl)-phthalimide (1.71 g, 6.74 mmol), potassium carbonate (0.85 g, 6.12 mmol), potassium iodide (1.02 g, 6.12 mmol) and dimethyl formamide (10 mL) was stirred at 70° C. for 24 h, then concentrated. The residue was dissolved in water, extracted with dichloromethane, the organic layer was dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography using Kieselgel 60 (0.040-0.063 mm) (Merck) as adsorbent, and chloroform:methanol:NH4OH=10:1:0.1 as eluent to yield 1.52 g (74%) of the title compound, as a white solid.

reactant | 1-pyridin-4-yl-piperazine | 6.12 mmol, 1.0 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | N-(2-bromoethyl)-phthalimide | 6.74 mmol, 1.71 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | 6.12 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.12 mmol, 1.02 g | [I-].[K+]
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-[2-(4-Pyridin-4-yl-piperazin-1-yl)-ethyl]-isoindole-1,3-dione | 1.52 g, 74% | N1=CC=C(C=C1)N1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H20N4O2
